US08431596B2
[5-(4-Methoxy-phenyl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (YY-001)
In a microwave vial, 5-(4-methoxy-phenyl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-ylamine (0.05 g, 0.207 mmol), 1-[2-(3-bromo-phenoxy)-ethyl]-1H-imidazole (0.073 g, 0.27 mmol), bis(dibenzylideneacetone)palladium (0.01 g, 0.01 mmol), xantphos (0.012 g, 0.02 mmol) and sodium tert butoxide (0.04 g, 0.416 mmol) were added successively. 1,4-Dioxane (1.2 mL) and dimethylacetamide (4 drops) were added and the vial was sealed and heated in the microwave (150° C., 10 min). The mixture was filtered and purified by preparatory LCMS. LCMS method: 1, RT: 3.27 min; MI: 431 [M+1].

reactant | 5-(4-methoxy-phenyl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-ylamine | 0.207 mmol, 0.05 g | COC1=CC=C(C=C1)C1=NC=CC=2N1N=C(N2)N | C12H11N5O
reactant | 1-[2-(3-bromo-phenoxy)-ethyl]-1H-imidazole | 0.27 mmol, 0.073 g | BrC=1C=C(OCCN2C=NC=C2)C=CC1 | C11H11BrN2O
reactant | xantphos | 0.02 mmol, 0.012 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert butoxide | 0.416 mmol, 0.04 g | CC(C)([O-])C.[Na+]
catalyst | dimethylacetamide | 4 drops | CC(=O)N(C)C | C4H9NO
catalyst | bis(dibenzylideneacetone)palladium | 0.01 mmol, 0.01 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | 1,4-Dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | [5-(4-Methoxy-phenyl)-[1,2,4]triazolo[1,5-c]pyrimidin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | COC1=CC=C(C=C1)C1=NC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C24H26N6O2
